US04015002
In accordance with the procedure described in Example 1b), 22.9 g (0.1 mol) of 1-(4-hydroxyphenyl)2-oxo-2,4,5,6,7,7 a-hexahydro-indole were added to a solution of potassium tertiary-butoxide [potassium metal: 3.9 g (1.1 mol); tertiary-butanol, 100 cm3 ], and this solution was added to 11.8 g (0.11 mole) of 2-dimethylamino-1-chloroethane. After heating for 6 hours at 60° C, the crude product of the reaction was isolated as in Example 1b), and purified by crystallisation from hexane. 17.5 g (yield 57%) of 1-[4-(2-dimethylaminoethoxy)-phenyl]-2-oxo-2,4,5,6,7,7a-hexahydro-indole, m.p. 90° C, were obtained.

reactant | 1-(4-hydroxyphenyl)2-oxo-2,4,5,6,7,7 a-hexahydro-indole | 0.1 mol, 22.9 g | OC1=CC=C(C=C1)N1C(C=C2CCCCC12)=O | C14H15NO2
reactant | potassium tertiary-butoxide | 1.1 mol, 100 cm3, 3.9 g | CC(C)([O-])C.[K+]
reactant | 2-dimethylamino-1-chloroethane | 0.11 mole, 11.8 g | CN(CCCl)C | C4H10ClN
product | 1-[4-(2-dimethylaminoethoxy)-phenyl]-2-oxo-2,4,5,6,7,7a-hexahydro-indole | 17.5 g, yield 57% | CN(CCOC1=CC=C(C=C1)N1C(C=C2CCCCC12)=O)C | C18H24N2O2
